* Transistors
M_MB35 2 2 2 2 PCH
M_MB45 5 2 2 2 PCH
M_MB45' 5 2 2 2 PCH
M_MB41 2 2 2 2 PCH
M_MB42 2 2 2 2 PCH
M_MB43 4 14 2 2 PCH
M_MB44 2 2 2 2 PCH
M_MB31 2 2 2 2 NCH
M_MB32 2 2 2 2 NCH
M_MB33 2 2 2 2 NCH
M_MB34 2 2 2 2 NCH
M_MR1 2 2 2 2 NCH
M_MR2 2 2 2 2 NCH
M_MR3 2 2 2 2 NCH
M_MR4 2 2 2 2 NCH
M_MC1 2 2 2 2 NCH
M_MC2 2 2 2 2 NCH
M_MC3 2 2 2 2 NCH
M_MC4 2 2 2 2 NCH
M_MC5 2 2 2 2 NCH
M_MC6 2 2 2 2 NCH

* Voltage Supplies (Labels in the image just for understanding)
V_VDD 2 0 DC 5V
V_VSS 0 0 DC 0V